US07906517B2
Tert-butyl 4-[2-(3,5-bis-trifluoromethyl-benzylamino)-pyrimidin-5-yloxy]-butyrate (300 mg) is dissolved in N,N-dimethylformamide (4 ml) and thereto is added sodium hydride (60%) (33 mg) under ice-cooling, and the mixture is stirred for 15 minutes and thereto is added 1-bromo-2-bromomethyl-4-methoxy-5-trifluoromethyl-benzene (327 mg) and the mixture is stirred at room temperature overnight. Thereto are added water and ethyl acetate, and the mixture is separated, and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=19:1→17:3) to give tert-butyl 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(2-bromo-5-methoxy-4-trifluoromethyl-benzyl)-amino]-pyrimidin-5-yloxy}-butyrate (256 mg). MS (m/z): 746/748 [M+H]+

reactant | Tert-butyl 4-[2-(3,5-bis-trifluoromethyl-benzylamino)-pyrimidin-5-yloxy]-butyrate | 300 mg | FC(C=1C=C(CNC2=NC=C(C=N2)OCCCC(=O)OC(C)(C)C)C=C(C1)C(F)(F)F)(F)F | C21H23F6N3O3
reactant | sodium hydride | 33 mg | [H-].[Na+]
reactant | 1-bromo-2-bromomethyl-4-methoxy-5-trifluoromethyl-benzene | 327 mg | BrC1=C(C=C(C(=C1)C(F)(F)F)OC)CBr | C9H7Br2F3O
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(2-bromo-5-methoxy-4-trifluoromethyl-benzyl)-amino]-pyrimidin-5-yloxy}-butyrate | 256 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)OC(C)(C)C)CC2=C(C=C(C(=C2)OC)C(F)(F)F)Br)C=C(C1)C(F)(F)F)(F)F | C30H29BrF9N3O4
